US07338959B2
3-(4-{[2-(3-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-(3-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (50 mg, 0.12 mmol) and 3-amino-benzenesulfonamide (21 mg, 0.12 mmol) as a white solid (31 mg, 44%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.51 (s, 1H), 8.60 (s, 1H), 7.76-7.80 (M, 2H), 7.25-7.47 (m, 10H), 7.13 (s, 1H), 6.90 (d, J=7.8 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.62 (d, J=5.4 Hz, 2H), 3.61 (s, 3H), 3.45 (s, 3H). MS (ESI) m/z=549 [M+H]+.

reactant | N2-(3-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.12 mmol, 50 mg | ClC=1C=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=CC1 | C20H18Cl2N6
reactant | 3-amino-benzenesulfonamide | 0.12 mmol, 21 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-(4-{[2-(3-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.ClC=1C=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=C(C=CC3)S(=O)(=O)N)C)C=CC1 | InChI=1S/C26H25ClN8O2S.ClH/c1-34(24-11-12-29-25(33-24)31-19-7-4-8-21(14-19)38(28,36)37)20-9-10-23-22(15-20)32-26(35(23)2)30-16-17-5-3-6-18(27)13-17;/h3-15H,16H2,1-2H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
